US09303012B2
[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridin-2-yl]-(4,4-dimethyl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid (Example 5 g)) was reacted with 4,4-dimethyl-piperidine (4045-30-1) in the presence of TBTU and DIEA to obtain the title compound as colorless oil; MS (EI): m/e=367.5 [MH+].

reactant | 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid | 5 g | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)O | C16H14FNO2
reactant | 4,4-dimethyl-piperidine | CC1(CCNCC1)C | C7H15N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | [5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridin-2-yl]-(4,4-dimethyl-piperidin-1-yl)-methanone | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)N1CCC(CC1)(C)C | C23H27FN2O
